US08487108B2
To a solution of (R)-tert-butyl 3-((R)-1-(2-aminoethoxy)-1-(3-chlorophenyl)butyl)piperidine-1-carboxylate (410 mg, 1 mmol) and DMAP (61 mg, 0.5 mmol) in dry CH2Cl2 (3 mL), Et3N (303 mg, 3 mmol) was added. The resulting mixture was cooled to 0-5° C. using a ice-water bath, a solution of methyl chloroformate (472 mg, 5 mmol) in dry CH2Cl2 (2 mL) was added dropwise. After addition, the reaction mixture was stirred for 1-2 h at 0-5° C. Upon completion of the reaction water (5 mL) was added and the aqueous layer was extracted with CH2Cl2 (3×15 mL). The combined organic layers were washed with 10% citric acid (2×10 mL) and brine, then dried over Na2SO4, filtered and concentrated to afford (R)-tert-butyl 3-((R)-1-(3-chlorophenyl)-1-(2-(methoxycarbonylamino)ethoxy)butyl)piperidine-1-carboxylate (460 mg, 98%), which was used in the next step without further purification.

reactant | (R)-tert-butyl 3-((R)-1-(2-aminoethoxy)-1-(3-chlorophenyl)butyl)piperidine-1-carboxylate | 1 mmol, 410 mg | NCCO[C@@](CCC)(C1=CC(=CC=C1)Cl)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H35ClN2O3
reactant | Et3N | 3 mmol, 303 mg | CCN(CC)CC | C6H15N
reactant | methyl chloroformate | 5 mmol, 472 mg | ClC(=O)OC | C2H3ClO2
reactant | water | 5 mL | O | H2O
catalyst | DMAP | 0.5 mmol, 61 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 3-((R)-1-(3-chlorophenyl)-1-(2-(methoxycarbonylamino)ethoxy)butyl)piperidine-1-carboxylate | 460 mg, 98% | ClC=1C=C(C=CC1)[C@](CCC)(OCCNC(=O)OC)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C24H37ClN2O5
